US05968985
To a solution of 2-[3-(4-carbamoyl-2,5-dihydrofuran-3-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole (0.1 g) in dichloromethane (1 ml) was added dropwise bis(trifluoromethanesulfonic)anhydride (0.0588 ml) at 0° C. and the mixture was stirred at room temperature for two hours. Then water was added to the reaction mixture and the stirring was continued for thirty minutes. The product was extracted with ethyl acetate and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with chloroform. The fractions containing the desired product were collected and evaporated in vacuo to give 2-[3-(4-cyano-2,5-dihydrofuran-3-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole.

reactant | 2-[3-(4-carbamoyl-2,5-dihydrofuran-3-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole | 0.1 g | C(N)(=O)C1=C(COC1)C=1C=C(C=CC1)C=1OCC(N1)(C)C | C16H18N2O3
reactant | water | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-[3-(4-cyano-2,5-dihydrofuran-3-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole | C(#N)C1=C(COC1)C=1C=C(C=CC1)C=1OCC(N1)(C)C | C16H16N2O2
